2111-12-22 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypercapnic respiratory failure
   24 Hour Events:
   Admitted from ED on Bipap.
 NON-INVASIVE VENTILATION - START [**2111-12-21**] 10:34 PM
   Mental status gradually improved.  Transitioned to nasal cannula.
   Cough productive for tan sputum (sent for culture).
   Lost all IV access [**Name8 (MD) **] RN, phlebotomy and MD unable to obtain peripheral
   access despite prolonged efforts and use of ultrasound.
   Fingerstick read as 20s-30s.  Given glucagon 1 mg IM.  Repeat
   fingerstick unchanged; however, glucose from ABG returned in 130s.
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 75**] Medical
   [**Name2 (NI) 1876**]s
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Respiratory: Cough, Dyspnea, Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2111-12-22**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 96 (71 - 109) bpm
   BP: 122/105(109) {122/66(92) - 192/105(113)} mmHg
   RR: 26 (16 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  30 mL
   PO:
                  30 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    300 mL
                                                                    860 mL
   Urine:
                                                                    300 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                   -830 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 575 (575 - 575) mL
   PS : 12 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 28%
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.50/63/54//20
   Ve: 5.6 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Well nourished, No acute distress, uncomfortable,
   some pursed lip breathing with minimal exertion
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), frequent pac's
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, situation, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   159 mg/dL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
   TCO2
   50
   51
   Glucose
   159
   Other labs: Lactic Acid:1.4 mmol/L
   Assessment and Plan
   Assesment: This is a 82 year-old female with a history of COPD,
   diastolic CHF, HTN, dermatomyositis, and chronic R hemidiaphragm
   elevation who presents with altered mental status/somnolence in the
   setting of hypercarbic respiratory failure, also with positive UA
   .
   Plan:
   # Respiratory distress: Her altered mental status and somnolence are
   likely due to hypercarbia, exacerbated by her UTI. CXR is unchanged
   from prior, arguing against new PNA.  She does not have leukocytosis
   but does have a left shift. Hypercarbic respiratroy failure is  likely
   multifactorial in etiology with underlying low lung volumes from
   elevated hemidiaphragm, bibasilar effusions, and respiratory muscle
   weakness due to dermatomyositis. Initial low O2 sats at [**Hospital1 238**] may have
   represented an aspiration event.  Given normal pH, she is likely not
   far off from baseline.
   Per OMR, the patient stated she that she would like to be DNR/I during
   her last admission, however, her son and daughter ([**Name (NI) 5351**]) have been
   having ongoing conversations with her regarding this.  They feel she
   would want intubation if it were to be brief (extensive family meeting
   held with daughter, attending and son via phone.
   -positive pressure mask ventilation to lower CO2
   -continue broad spectrum abx for now pending micro data
   -consider place a line for ABG monitoring
   -intubation if evidence of fatigue or failure of noninvasive
   ventilation
   .
   # Dermatomyositis:  Diffuse muscle weakness contributing to respiratory
   failure; exacerbated by deconditioning.
   -Continue home dose prednisone 15mg
   -consider Rheum and or neuro cconsult in AM (but both teams stated last
   admission that there was little more to do).
   -Aldolase level was checked last admission, WNL.
   -add on CK
   -PT consult once more stable
   .
   # Urinary tract infection: Positive UA with chronic catheter in place.
   Treated with 7 days of cipro last admit, but urine grew ESBL klebsiella
   and resistant pseudomonas. Pt has PCN allergy further limiting
   treatment options.  Not currently febrile or with leukocytosis.
   -change foley
   -resend UA/UCx
   -given levoflox/aztreonam in ED; would favor ID consult in AM for
   further treatment recommendations
   -trend fever and WBC curves
   .
   # HTN: On amlodipine, metoprolol and lisinopril as outpatient.
   -continue home meds
   .
   # Aortic stenosis, h/o diastolic heart failure: Recent echo done here
   showed mild aortic stenosis, valve area 1.2-1.9cm2.  No current need
   for diuresis.
   - home meds as above.
   .
   # Osteopenia: Continue calcium/vit D.
   .
   # Left Hip osteonecrosis:  chronic. asymptomatic. Refused xrays and
   ortho consul last admit.
   -continue calcium and vitamin D
   -outpatient f/u if desired
   .
   # Chronic pain: Continue lidoderm patch, gabapentin
   -hold oxycontin, nortriptyline in setting of resp failure; may restart
   once stable (or intubated)
   .
   # FEN:  NPO overnight pending improvement in respiratory status
   .
   # Access: PIVS
   .
   # PPx: SC heparin, h2 blocker
   .
   # Code:  FULL for now (see above)
   .
   # Dispo:  ICU
   .
   # Comm:  [**Name (NI) **] [**Name (NI) **] (HCP1) [**Telephone/Fax (1) 4855**]; Daughter [**Name (NI) **] (HCP2)
   [**Telephone/Fax (1) 5352**] (h) [**Telephone/Fax (1) 5353**] (c)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:  sc heparin
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-12-22 09:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Admitted to the ICU overnight.  Recently admitted on [**12-7**] with
   hypercarbic respiratory failure requiring intubation.  Found to have
   UTI at the time.  Extubated and sent to [**Hospital1 238**].  Then, yesterday found to
   be confused and somnolent with some hypoxemia.
   In ED, PCO2 noted to be in the 80's.  Started on Bipap and was given
   levofloxacin/aztreonam.
   In the ICU, lost IV access.  Mental status fortunately improved and she
   was able to come off of bipap.  Repeat ABG off bipap: 7.50/63/54 (on 1L
   NC).  Reports chest congestion this AM but unable to expectorate.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Lisinopril, detrol, famotidine, lidocaine patch, Vit D, Calcium,
   neurontin, Vit C, Prednisone 15mg, metoprolol, HSQ, MVI, colace,
   Norvasc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-22**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 95 (71 - 109) bpm
   BP: 150/76(95) {122/66(92) - 192/105(115)} mmHg
   RR: 36 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  30 mL
   PO:
                  30 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    300 mL
                                                                  1,290 mL
   Urine:
                                                                    300 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                 -1,260 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 575 (575 - 575) mL
   PS : 12 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 28%
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.50/63/54//20
   Ve: 5.6 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: Bibasilar,
   Rhonchorous: ) difficulty completing sentences
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Skin grafting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   284
   159 mg/dL
   0.4
   47
   3.8
   17
   89
   142
   36
   7.9
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
   TCO2
   50
   51
   Glucose
   159
   Other labs: Lactic Acid:1.4 mmol/L
   Fluid analysis / Other labs: U/A:  Mod LE, 21-50 WBC, many bacteria.
   Imaging: CXR:  Elevated R hemidiaprhagm with B/L effusion.  Low R lung
   volume with R basilar infiltrate.
   Microbiology: UCx:  Pending
   BCx: Pending
   Sputum Cx:  Pending
   Assessment and Plan
   82 yo F with long-standing dermatomyositis, COPD with significant
   baseline hypoventilation presenting with acute on chronic hypercapnia.
   Resp Failure:  Acute tip over could be related to PNA given CXR
   findings and chest congestion.
     -Will use Bipap intermittently as needed
     -Goal O2 sats in low 90's
     -MIE QiD and PRN
     -Upright posititioning whenever able
     -Will empirically cover with Vancomycin, aztreonam, levofloxacin for
   now and tailor abx with culture results
     -Patient is clear in her wishes to be DNR/DNI.
   UTI:  Multi-resistant orgs on previous UCx.  Also has PCN allergy
   potentially limiting meropenem use
     -ID consult
     -Change foley
   Dermatomyositis - on home dose of Pred. No signs of hypoadrenalism at
   present.
     -Low threshold for stress dose steroids at present.
   Access:  Periphals unable to be placed to this point.  Pt desat's to
   the 40's when lies flat making SC/IJ lines no feasible.
     -PICC consult.  If unable to place PICC, will need fem line.
   Rest of plan per Resident Note. She will need formal speech/ swallow
   evaluation prior to advancing diet. [**Month (only) 51**] very well need TPN short term
   too until infectious issues improved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/ DNI per discussion with patient. Daughter confirms
   that this is in keeping with her mothers
s wishes in past
   Disposition :ICU
   Total time spent: 45 minutes

2111-12-23 08:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2111-12-22**] 04:00 PM
 PICC LINE - START [**2111-12-22**] 06:00 PM
   PLACED IN IR
 PICC LINE - STOP [**2111-12-22**] 11:45 PM
   PLACED IN IR
   Patient pulled PICC line overnight, patient stated she
did not want
   that thing inside of her anymore.
  Peripheral IV line was successfully
   placed for access.
   Patient had episode of acute hypoxia overnight.  She was started on
   BIPAP with improvement in oxygen saturation.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-22**] 06:00 PM
   Aztreonam - [**2111-12-23**] 03:17 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2111-12-22**] 08:54 PM
   Metoprolol - [**2111-12-23**] 03:17 AM
   Furosemide (Lasix) - [**2111-12-23**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-23**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 105 (87 - 134) bpm
   BP: 117/73(83) {117/71(83) - 195/108(126)} mmHg
   RR: 24 (24 - 46) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    410 mL
                                                                    870 mL
   PO:
                                                                     60 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    350 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    400 mL
   Urine:
                                                                  1,975 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,565 mL
                                                                    470 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 196 (196 - 196) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.40/71/84.[**Numeric Identifier 1000**]/44/14
   Ve: 4.5 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Gen: somnolent, opens eyes to verbal stimuli
   HEENT: PERRLA, sclera anicteric, OP dry
   Neck: no JVD, no LAD
   CVS: +S1/S2, no M/R/G, RRR
   LUNGS: mild crackles anteriorly and posterior lung fields
   ABD: +BS, NT/ND
   EXT: no C/C/E
   Labs / Radiology
   271 K/uL
   10.9 g/dL
   95 mg/dL
   0.3 mg/dL
   44 mEq/L
   3.5 mEq/L
   9 mg/dL
   90 mEq/L
   142 mEq/L
   32.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
                             [**2111-12-22**]  11:52 PM
                             [**2111-12-23**]  07:08 AM
                             [**2111-12-23**]  07:33 AM
   WBC
   6.0
   Hct
   32.3
   Plt
   271
   Cr
   0.3
   TCO2
   50
   51
   44
   46
   Glucose
   159
   95
   Other labs: Lactic Acid:1.4 mmol/L, Ca++:9.5 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of COPD, diastolic CHF,
   HTN, dermatomyositis, and chronic R hemidiaphragm elevation who was
   admitted with altered mental status/somnolence in the setting of
   hypercarbic respiratory failure, also with positive UA
   # Respiratory distress: Patient with acute episode of hypoxia this
   morning along with transient low SBP to low 90s.  There was a question
   as to the validity of the hypoxia as O2saturation device showed a
   minimal tracing.  ABG done and showed 7.40/69/186/44.  Repeat ABG
   showed 7.4/71/84/46, which argue against hypoxia as paO2 is normal.
   Patient was placed on BIPAP given somnolence and ?hypoxia.  PE unlikely
   as Blood Pressures have normalized, currently SBP 130s, O2sat
   normalized and HR 90s to 100s which is her baseline.  ECG taken and
   showed no acute changes, only some flattened t waves.  Will ROMI.
   Daugther notified about deterioration and meeting held this morning.
   Decision was for no further escalation of care.
   -- cont BIPAP
   --continue Vanco/Levo/Aztreonam
   -chest PT
   -f/u micro data
   - cycle cardiac enzymes
   # Somnolence:  Initial concern was for hypercarbia but ABG with
   baseline pCO2.  Most likely cause of somnolence at this point is
   infection.
   # Dermatomyositis:  Diffuse muscle weakness contributing to respiratory
   failure; exacerbated by deconditioning.
   -Continue home dose prednisone 15mg
   .
   # Urinary tract infection: Positive UA with chronic catheter in place.
   Treated with 7 days of cipro last admit, but urine grew ESBL klebsiella
   and resistant pseudomonas. ID consulted and recommended
   Vanco/Levo/Aztreonam
   -f/u ID consult
   -cont levoflox/aztreonam/vanc
   - trend fever and WBC curves
   .
   #Access: pulled PICC line last night, will attempt a-line, if not then
   fem line
   .
   # HTN: On amlodipine, metoprolol and lisinopril as outpatient.
   -continue Metoprolol 5mg IV PRN
   .
   # Aortic stenosis, h/o diastolic heart failure: Recent echo done here
   showed mild aortic stenosis, valve area 1.2-1.9cm2.  No current need
   for diuresis.
   - home meds as above.
   .
   # Osteopenia: Continue calcium/vit D.
   .
   # Left Hip osteonecrosis:  chronic. asymptomatic. Refused xrays and
   ortho consul last admit.
   -continue calcium and vitamin D
   .
   # Chronic pain: Continue lidoderm patch, gabapentin
   -hold oxycontin, nortriptyline in setting of resp failure; may restart
   once stable (or intubated)
   .
   # FEN:  NPO
   # PPx: SC heparin, h2 blocker
   .
   # Code:  DNR/DNI
   .
   # Dispo:  ICU
   .
   # Comm:  [**Name (NI) **] [**Name (NI) **] (HCP1) [**Telephone/Fax (1) 4855**]; Daughter [**Name (NI) **] (HCP2)
   [**Telephone/Fax (1) 5352**] (h) [**Telephone/Fax (1) 5353**] (c)
   sa

2111-12-23 08:49:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic resp failure
   UTI, ESBL Kleb, Pseudomonas
   From rehab
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FLUOROSCOPY - At [**2111-12-22**] 04:00 PM
 PICC LINE - START [**2111-12-22**] 06:00 PM
   PLACED IN IR
 PICC LINE - STOP [**2111-12-22**] 11:45 PM
   PLACED IN IR
   Vanco/Aztrenam/Levoflox started yesterday.
   Pulled picc line from confusion
   New hypoxia early am, responded to bipap. ABG with stable hypercarbia
   but more hypoxemia. Altered mental status. Got a dose of lasix for
   crackles. Was being K repleted. SBP 80-90. Did get metoprolol iv.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-22**] 06:00 PM
   Aztreonam - [**2111-12-23**] 03:17 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2111-12-22**] 08:54 PM
   Metoprolol - [**2111-12-23**] 03:17 AM
   Furosemide (Lasix) - [**2111-12-23**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-23**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 105 (87 - 134) bpm
   BP: 117/73(83) {117/71(83) - 195/108(126)} mmHg
   RR: 24 (24 - 46) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    410 mL
                                                                    870 mL
   PO:
                                                                     60 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    350 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    400 mL
   Urine:
                                                                  1,975 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,565 mL
                                                                    470 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 196 (196 - 196) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.40/71/84.[**Numeric Identifier 1000**]/44/14
   Ve: 4.5 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Somnolent
   Eyes / Conjunctiva: Pupils reactive and equal
   Head, Ears, Nose, Throat: No JVD
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : at
   bases), (Breath Sounds: Bronchial: R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Chr L > R
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, confused
   Labs / Radiology
   10.9 g/dL
   271 K/uL
   95 mg/dL
   0.3 mg/dL
   44 mEq/L
   3.5 mEq/L
   9 mg/dL
   90 mEq/L
   142 mEq/L
   32.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
                             [**2111-12-22**]  11:52 PM
                             [**2111-12-23**]  07:08 AM
                             [**2111-12-23**]  07:33 AM
   WBC
   6.0
   Hct
   32.3
   Plt
   271
   Cr
   0.3
   TCO2
   50
   51
   44
   46
   Glucose
   159
   95
   Other labs: Lactic Acid:1.4 mmol/L, Ca++:9.5 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 URINARY TRACT INFECTION (UTI)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   82 yo F with long-standing dermatomyositis, COPD with significant
   baseline hypoventilation presenting with acute on chronic hypercapnia.
   DCHF, AS
   R diaph elevation
   Chronic bibasilar infiltrates
   chronic prednisone therapy
   Resp Failure:  Acute hypoxia: DD: flash pulm edema, new aspiration, new
   cardiac event, new PE, mucous plug
   CXR: stable with bibasilar infiltrates
   ABX: Vanc, Aztreonam, Levoflox
   EKG: new T flat in lateral leads, old RBBB, old axis deviation
   Check basic labs, cardiac enzymes, f/u ABGs, use Bipap as needed
     -Patient is clear in her wishes to be DNR/DNI. And we will use
   morphine on as needed basis only while on/ off NIPPV
   Delta MS: Pupils equal, moving all extermities, likely metabolic
   UTI:  GNR, ID consult (due to resistance patterns), chronic foley, f/u
   cxs
   Dermatomyositis - on home dose of Pred. No signs of hypoadrenalism at
   present.
     -Low threshold for stress dose steroids at present.
   Bedside Midline today
   I/O even
   Family discussion reg goals of care, DNR/DNI, feeds, was refusing meds
   yesterday
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2111-12-22**] 11:56 PM
   20 Gauge - [**2111-12-22**] 11:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: spoken with daughter and son who live in
   [**Name (NI) 23**] who concur with goals of care. They will inform their brother in
   CA to travel east. We will continue supportive care but not compromise
   on her comfort at all times.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2111-12-24 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2111-12-23**] 03:00 PM
   events:
   - midline placed
   - mental status improved, HR down on BiPAP, although desats without it
   to 70's.
   - urine output has been minimal despite 4L IVF.
   - urine cx x 2 with fecal contamination (although pt has not been
   stooling). KUB -
   - flu negative
   [1][**2111-12-24**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [2][**2111-12-22**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-PRELIMINARY; Rapid Respiratory Viral Antigen
   Test-FINAL
   INPATIENT
   [3][**2111-12-22**]
   URINE
   Legionella Urinary Antigen -FINAL
   INPATIENT
   [4][**2111-12-22**]
   MRSA SCREEN
   MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS}
   INPATIENT
   [5][**2111-12-22**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [6][**2111-12-22**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [7][**2111-12-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [8][**2111-12-21**]
   URINE
   URINE CULTURE-FINAL {GRAM NEGATIVE ROD(S)}
   EMERGENCY [**Hospital1 **]
   [9][**2111-12-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-12-23**] 07:20 PM
   Aztreonam - [**2111-12-24**] 04:41 AM
   Vancomycin - [**2111-12-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-23**] 08:20 PM
   Morphine Sulfate - [**2111-12-24**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-24**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 103 (78 - 111) bpm
   BP: 155/58(82) {90/46(58) - 155/75(90)} mmHg
   RR: 15 (14 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,438 mL
                                                                  2,477 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                  6,168 mL
                                                                  2,477 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    100 mL
   Urine:
                                                                    935 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,503 mL
                                                                  2,377 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 195 (161 - 341) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.40/71/84.[**Numeric Identifier 1000**]/44/14
   Ve: 3.8 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Gen: NAD, BIPAP removed, breathing well, AAOx3, responding
   appropriately to questions
   Neck: no LAD
   CVS: +S1/S2, no M/R/G, RRR
   LUNGS: poor inspiratory effort, no wheezes, crackles or ronchi
   ABD: +BS, NT/ND
   EXT: no C/C/E
   Skin: no rash, +scarring over RLE from skin graft
   Labs / Radiology
   271 K/uL
   10.9 g/dL
   173 mg/dL
   0.4 mg/dL
   44 mEq/L
   3.5 mEq/L
   10 mg/dL
   90 mEq/L
   139 mEq/L
   32.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
                             [**2111-12-22**]  11:52 PM
                             [**2111-12-23**]  07:08 AM
                             [**2111-12-23**]  07:33 AM
                             [**2111-12-23**]  08:05 AM
   WBC
   6.0
   Hct
   32.3
   Plt
   271
   Cr
   0.3
   0.4
   TropT
   0.03
   TCO2
   50
   51
   44
   46
   Glucose
   159
   95
   173
   Other labs: CK / CKMB / Troponin-T:57//0.03, Lactic Acid:1.4 mmol/L,
   Ca++:9.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of COPD, diastolic CHF,
   HTN, dermatomyositis, and chronic R hemidiaphragm elevation who was
   admitted with altered mental status/somnolence in the setting of
   hypercarbic respiratory failure, also with positive UA
   # Respiratory distress: Patient with acute episode of hypoxia yesterday
   and was placed on BIPAP.  BIPAP removed this morning with good
   response.  Patient will likely need intermittent BIPAP throughout the
   day but will keep BIPAP off if possible
   -- cont BIPAP PRN
   --continue Vanco/Levo/Aztreonam
   -chest PT
   - f/u micro data
   # Somnolence:  Initial concern was for hypercarbia but ABG with
   baseline pCO2.  Most likely cause of somnolence at this point is
   infection.
   -- improved overnight with BIPAP and antibiotics, will cont to monitor
   # Dermatomyositis:  Diffuse muscle weakness contributing to respiratory
   failure; exacerbated by deconditioning.
   -Continue home dose prednisone 15mg
   .
   # Urinary tract infection: Positive UA with chronic catheter in place.
   Treated with 7 days of cipro last admit, but urine grew ESBL klebsiella
   and resistant pseudomonas. ID consulted and recommended
   Vanco/Levo/Aztreonam.  ID has now signed off.  Urine culture with fecal
   contamination.  Will repeat UA, if still with fecal contamination then
   will order CT scan for evaluation of possible uretocolonic fistula.
   Urine output has trailed off overnight, about 20cc/hr.
   -cont levoflox/aztreonam/vanc
   - trend fever and WBC curves
   - repeat UA/Ucx
   - IVF bolus PRN for goal Urine output > 30cc/hr
   .
   #Access: Mid line placed yesterday, will re-attempt PICC line
   .
   # HTN: On amlodipine, metoprolol and lisinopril as outpatient.
   -continue Metoprolol, Lisinopril.
   = add amlodipine if BP tolerates
   .
   # Aortic stenosis, h/o diastolic heart failure: Recent echo done here
   showed mild aortic stenosis, valve area 1.2-1.9cm2.  No current need
   for diuresis.
   - home meds as above.
   .
   # Osteopenia: Continue calcium/vit D.
   .
   # Left Hip osteonecrosis:  chronic. asymptomatic. Refused xrays and
   ortho consul last admit.
   -continue calcium and vitamin D
   .
   # Chronic pain: Continue lidoderm patch, gabapentin
   -hold oxycontin, nortriptyline in setting of resp failure; may restart
   once stable (or intubated)
   .
   # FEN:  NPO for now, labs not drawn [**12-28**] to poor access/veins
   -- S&S eval
   -- obtain daily labs
   # PPx: SC heparin, h2 blocker
   .
   # Code:  DNR/DNI
   .
   # Dispo:  ICU
   .
   # Comm:  [**Name (NI) **] [**Name (NI) **] (HCP1) [**Telephone/Fax (1) 4855**]; Daughter [**Name (NI) **] (HCP2)
   [**Telephone/Fax (1) 5352**] (h) [**Telephone/Fax (1) 5353**] (c)
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);

2111-12-24 11:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - START [**2111-12-23**] 03:00 PM
   Mental status improved yesterday after bipap.
   Desats to 70s w/o it
   IVF for low UO
   UCx: Fecal contamination, nit not stooling. KUB hard to read, rotated.
   Flu: neg
   Family discussion: Son from CA coming in today. Liklely moving towards
   comfort care.
   thick secretions
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-12-23**] 07:20 PM
   Aztreonam - [**2111-12-24**] 04:41 AM
   Vancomycin - [**2111-12-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-23**] 08:20 PM
   Morphine Sulfate - [**2111-12-24**] 02:05 AM
   Heparin Sodium (Prophylaxis) - [**2111-12-24**] 09:49 AM
   Other medications:
   prednisone 50 daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-24**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36
C (96.8
   HR: 84 (73 - 111) bpm
   BP: 118/50(66) {102/46(58) - 155/75(90)} mmHg
   RR: 29 (14 - 37) insp/min
   SpO2: 68%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,438 mL
                                                                  3,662 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                  6,168 mL
                                                                  3,662 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    215 mL
   Urine:
                                                                    935 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,503 mL
                                                                  3,447 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 165 (161 - 341) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 68%
   ABG: 7.4/71/84/46
   Ve: 3.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all 4 present
   Respiratory / Chest: (Expansion: No(t) Symmetric), (Percussion: ),
   (Breath Sounds: Clear : L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   271 K/uL
   173 mg/dL
   0.4 mg/dL
   44 mEq/L
   3.5 mEq/L
   10 mg/dL
   90 mEq/L
   139 mEq/L
   32.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
                             [**2111-12-22**]  11:52 PM
                             [**2111-12-23**]  07:08 AM
                             [**2111-12-23**]  07:33 AM
                             [**2111-12-23**]  08:05 AM
   WBC
   6.0
   Hct
   32.3
   Plt
   271
   Cr
   0.3
   0.4
   TropT
   0.03
   TCO2
   50
   51
   44
   46
   Glucose
   159
   95
   173
   Other labs: CK / CKMB / Troponin-T:57//0.03, Lactic Acid:1.4 mmol/L,
   Ca++:9.5 mg/dL, Mg++:1.6 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR: new R pleural effusion vs infiltrate
   Microbiology: UCx: GNR
   BCx: ngtd
   mrsa screen +
   U Lg neg
   Viral neg
   Assessment and Plan
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 URINARY TRACT INFECTION (UTI)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   82 yo F with long-standing dermatomyositis, COPD with significant
   baseline hypoventilation presenting with acute on chronic hypercapnia.
   DCHF, AS
   R diaph elevation
   Chronic bibasilar infiltrates
   chronic prednisone therapy
   Resp Failure:  Improved on bipap with improvement in mental status as
   well. Try NC today. Keep sats 90-92. Repeat ABG and labs.
   New/progressive RLL infiltrate/effusion: likely aspration event
   yesterday. On Vanc/Levo/Aztrenoam. Check sputum cx. CT if infiltrate
   doesnt improve.
     -Patient is clear in her wishes to be DNR/DNI. And we will use
   morphine on as needed basis only while on/ off NIPPV
   UTI: Fecal contamination of urine...complicated UTI - [**9-7**] day
   Rx..send another UA and cxs.
   Low threshold for Ct [**Last Name (un) **]/pelvis to further eval if urine doesnt clear.
   Dermatomyositis - on home dose of Pred. No signs of hypoadrenalism at
   present.
   I/O: keep UO > 30, try even
   Assess speech/swallow consult.
   Family discussion reg goals of care, DNR/DNI, feeds, was refusing meds
   yesterday
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2111-12-23**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2111-12-25 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2111-12-24**] 11:10 AM
 URINE CULTURE - At [**2111-12-24**] 01:09 PM
 NON-INVASIVE VENTILATION - START [**2111-12-24**] 03:35 PM
   Patient became hypoxic yesterday afternoon with O2saturation in the
   70%s.  She was placed on BIPAP and remained on BIPAP overnight.  BIPAP
   was removed for a few minutes last night but again she desaturated so
   it was placed once again.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-12-23**] 07:20 PM
   Vancomycin - [**2111-12-24**] 06:00 AM
   Aztreonam - [**2111-12-25**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-24**] 09:49 AM
   Dextrose 50% - [**2111-12-24**] 08:54 PM
   Morphine Sulfate - [**2111-12-25**] 03:15 AM
   Famotidine (Pepcid) - [**2111-12-25**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-25**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 98 (72 - 116) bpm
   BP: 163/70(94) {108/49(64) - 164/86(105)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,573 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                  4,523 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                    990 mL
   Urine:
                                                                    890 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,683 mL
                                                                   -516 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 150 (150 - 399) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.29/76.[**Numeric Identifier 126**]/76.[**Numeric Identifier 126**]/35/6
   Ve: 2.9 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   235 K/uL
   8.9 g/dL
   92 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.6 mEq/L
   13 mg/dL
   97 mEq/L
   136 mEq/L
   26.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
                             [**2111-12-22**]  11:52 PM
                             [**2111-12-23**]  07:08 AM
                             [**2111-12-23**]  07:33 AM
                             [**2111-12-23**]  08:05 AM
                             [**2111-12-24**]  02:20 PM
                             [**2111-12-24**]  03:14 PM
   WBC
   6.0
   7.4
   Hct
   32.3
   26.6
   Plt
   271
   235
   Cr
   0.3
   0.4
   0.6
   TropT
   0.03
   0.06
   TCO2
   50
   51
   44
   46
   38
   Glucose
   159
   95
   173
   92
   Other labs: PT / PTT / INR:12.9/33.5/1.1, CK / CKMB /
   Troponin-T:116/5/0.06, Lactic Acid:1.4 mmol/L, Ca++:7.2 mg/dL, Mg++:1.3
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of COPD, diastolic CHF,
   HTN, dermatomyositis, and chronic R hemidiaphragm elevation who was
   admitted with altered mental status/somnolence in the setting of
   hypercarbic respiratory failure, also with positive UA
   # Respiratory distress: Patient with acute episode of hypoxia yesterday
   and was placed on BIPAP.  BIPAP removed this morning with good
   response.  Patient will likely need intermittent BIPAP throughout the
   day but will keep BIPAP off if possible
   -- cont BIPAP PRN
   --continue Vanco/Levo/Aztreonam
   -chest PT
   - f/u micro data
   # Somnolence:  Initial concern was for hypercarbia but ABG with
   baseline pCO2.  Most likely cause of somnolence at this point is
   infection.
   -- improved overnight with BIPAP and antibiotics, will cont to monitor
   # Dermatomyositis:  Diffuse muscle weakness contributing to respiratory
   failure; exacerbated by deconditioning.
   -Continue home dose prednisone 15mg
   .
   # Urinary tract infection: Positive UA with chronic catheter in place.
   Treated with 7 days of cipro last admit, but urine grew ESBL klebsiella
   and resistant pseudomonas. ID consulted and recommended
   Vanco/Levo/Aztreonam.  ID has now signed off.  Urine culture with fecal
   contamination.  Will repeat UA, if still with fecal contamination then
   will order CT scan for evaluation of possible uretocolonic fistula.
   Urine output has trailed off overnight, about 20cc/hr.
   -cont levoflox/aztreonam/vanc
   - trend fever and WBC curves
   - repeat UA/Ucx
   - IVF bolus PRN for goal Urine output > 30cc/hr
   .
   #Access: Mid line placed yesterday, will re-attempt PICC line
   .
   # HTN: On amlodipine, metoprolol and lisinopril as outpatient.
   -continue Metoprolol, Lisinopril.
   = add amlodipine if BP tolerates
   .
   # Aortic stenosis, h/o diastolic heart failure: Recent echo done here
   showed mild aortic stenosis, valve area 1.2-1.9cm2.  No current need
   for diuresis.
   - home meds as above.
   .
   # Osteopenia: Continue calcium/vit D.
   .
   # Left Hip osteonecrosis:  chronic. asymptomatic. Refused xrays and
   ortho consul last admit.
   -continue calcium and vitamin D
   .
   # Chronic pain: Continue lidoderm patch, gabapentin
   -hold oxycontin, nortriptyline in setting of resp failure; may restart
   once stable (or intubated)
   .
   # FEN:  NPO for now, labs not drawn [**12-28**] to poor access/veins
   -- S&S eval
   -- obtain daily labs
   # PPx: SC heparin, h2 blocker
   .
   # Code:  DNR/DNI
   .
   # Dispo:  ICU
   .
   # Comm:  [**Name (NI) **] [**Name (NI) **] (HCP1) [**Telephone/Fax (1) 4855**]; Daughter [**Name (NI) **] (HCP2)
   [**Telephone/Fax (1) 5352**] (h) [**Telephone/Fax (1) 5353**] (c)
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2111-12-25**] 12:30 AM 42 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2111-12-23**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-12-25 08:32:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2111-12-24**] 11:10 AM
 URINE CULTURE - At [**2111-12-24**] 01:09 PM
 NON-INVASIVE VENTILATION - START [**2111-12-24**] 03:35 PM
   Required Bipap in evening for hypoxemia. Unable to come off this
   morning due to WOB and hypoxemia. Started on PPN
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-12-23**] 07:20 PM
   Vancomycin - [**2111-12-24**] 06:00 AM
   Aztreonam - [**2111-12-25**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-24**] 09:49 AM
   Dextrose 50% - [**2111-12-24**] 08:54 PM
   Morphine Sulfate - [**2111-12-25**] 03:15 AM
   Famotidine (Pepcid) - [**2111-12-25**] 07:42 AM
   Metoprolol - [**2111-12-25**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Finger tingling
   Flowsheet Data as of  [**2111-12-25**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 104 (72 - 116) bpm
   BP: 170/79(102) {108/49(64) - 170/86(105)} mmHg
   RR: 27 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  4,573 mL
                                                                    480 mL
   PO:
             TF:
   IVF:
                                                                  4,523 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                  1,350 mL
   Urine:
                                                                    890 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,683 mL
                                                                   -870 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 150 (150 - 399) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.29/76.[**Numeric Identifier 126**]/76.[**Numeric Identifier 126**]/35/6
   Ve: 2.9 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, JVD flat
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all 4 present
   Respiratory / Chest: absent breath sounds at bases with dullness R>L
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   235 K/uL
   92 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.6 mEq/L
   13 mg/dL
   97 mEq/L
   136 mEq/L
   26.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
                             [**2111-12-22**]  11:52 PM
                             [**2111-12-23**]  07:08 AM
                             [**2111-12-23**]  07:33 AM
                             [**2111-12-23**]  08:05 AM
                             [**2111-12-24**]  02:20 PM
                             [**2111-12-24**]  03:14 PM
   WBC
   6.0
   7.4
   Hct
   32.3
   26.6
   Plt
   271
   235
   Cr
   0.3
   0.4
   0.6
   TropT
   0.03
   0.06
   TCO2
   50
   51
   44
   46
   38
   Glucose
   159
   95
   173
   92
   Other labs: PT / PTT / INR:12.9/33.5/1.1, CK / CKMB /
   Troponin-T:116/5/0.06, Lactic Acid:1.4 mmol/L, Ca++:7.2 mg/dL, Mg++:1.3
   mg/dL, PO4:2.6 mg/dL
   CXR: LLL infiltrate returns, RLL infiltrate stable.
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 URINARY TRACT INFECTION (UTI)
   82 yo F with long-standing dermatomyositis, COPD with significant
   baseline hypoventilation presenting with acute on chronic hypercapnia.
   DCHF, AS . R diaph elevation. Chronic bibasilar infiltrates which
   fluctuate likely related to aspiration.  Chronic prednisone therapy
   Resp Failure:  Unable to wean off Bipap, may be related to recurrent
   aspiration, ineffective clearance, lack of steroid dose in the last few
   days due to NPO status, failed bedside swallow eval yesterday. Too sick
   today to go for video swallow. On Vanc/Levo/Aztrenoam. CT if infiltrate
   doesnt improve. Iv steroid equivalent to oral dose for dermatomyositis.
     -Patient is clear in her wishes to be DNR/DNI. And we will use
   morphine on as needed basis only while on/ off NIPPV
   UTI: UA improved. Continue abx x 10 days
   Dermatomyositis
 iv steroid today, same dose as outpt prednisone dose.
   I/O: keep UO > 30, try even goal
   IV access: cant go down for picc, needs midline readdressed.
   Family discussion reg goals of care, DNR/DNI, feeds, was refusing meds
   yesterday
   Palliative care consult appreciated. We will continue with supportive
   care today but if she should lose consciousness, start Morphine drip
   and prn ativan for agitation. At that time we will stop phleobotomy and
   even BiPAP if there is a subsequent decline in hemodynamics with
   progressive sepsis
   ICU Care
   Nutrition: PPN
   Glycemic Control:
   Lines:
   Midline - [**2111-12-23**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 mins

2111-12-26 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2111-12-25**] 05:04 PM.  PIV placed
   Family meeting done yesterday with Pain and Palliative Care.  Family
   has agreed to no escalation of care.  Will cont BIPAP for [**Year (4 digits) **].
   Will cont current antibiotics.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-25**] 08:55 AM
   Levofloxacin - [**2111-12-25**] 09:39 AM
   Aztreonam - [**2111-12-26**] 03:50 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-25**] 07:42 AM
   Metoprolol - [**2111-12-26**] 03:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-26**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 102 (66 - 105) bpm
   BP: 137/67(83) {128/59(76) - 170/89(103)} mmHg
   RR: 29 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,321 mL
                                                                    123 mL
   PO:
             TF:
   IVF:
                                                                  1,100 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    375 mL
   Urine:
                                                                  2,720 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,399 mL
                                                                   -252 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (150 - 421) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///39/
   Ve: 5.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   256 K/uL
   9.3 g/dL
   120 mg/dL
   0.5 mg/dL
   39 mEq/L
   2.6 mEq/L
   9 mg/dL
   103 mEq/L
   146 mEq/L
   27.0 %
   7.9 K/uL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
                             [**2111-12-22**]  11:52 PM
                             [**2111-12-23**]  07:08 AM
                             [**2111-12-23**]  07:33 AM
                             [**2111-12-23**]  08:05 AM
                             [**2111-12-24**]  02:20 PM
                             [**2111-12-24**]  03:14 PM
                             [**2111-12-25**]  09:30 AM
   WBC
   6.0
   7.4
   7.9
   Hct
   32.3
   26.6
   27.0
   Plt
   271
   235
   256
   Cr
   0.3
   0.4
   0.6
   0.5
   TropT
   0.03
   0.06
   TCO2
   50
   51
   44
   46
   38
   Glucose
   159
   95
   173
   92
   120
   Other labs: PT / PTT / INR:12.9/33.5/1.1, CK / CKMB /
   Troponin-T:116/5/0.06, Lactic Acid:1.4 mmol/L, Ca++:7.6 mg/dL, Mg++:2.1
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   This is an 82 year-old female with a history of COPD, diastolic CHF,
   HTN, dermatomyositis, and chronic R hemidiaphragm elevation who was
   admitted with altered mental status/somnolence in the setting of
   hypercarbic respiratory failure, also with positive UTI
   # Respiratory distress: Patient has continued to require BIPAP on an
   intermittent basis.  Plan is to cont with BIPAP as neeed.  Family
   meeting held today and plan is for no escalation of care.  Will use
   bipap for [**Last Name (LF) **], [**First Name3 (LF) **] cont with antibiotics for treatment of
   UTI/Pneumonia
   -- cont BIPAP PRN
   --continue Vanco/Levo/Aztreonam
   -chest PT
   - f/u micro data
   # Dermatomyositis:  Diffuse muscle weakness contributing to respiratory
   failure; exacerbated by deconditioning.
   -change prednisone PO to Solumedrol 15mg IV daily
   .
   # Urinary tract infection: Patient with ESBL klebsiella and resistant
   pseudomonas during last admission. ID consulted and recommended
   Vanco/Levo/Aztreonam.  Urine culture during this admission with fecal
   contamination, culture repeated for evaluation
   -cont levoflox/aztreonam/vanc
   - trend fever and WBC curves
   - repeat UA/Ucx
   - IVF bolus PRN for goal Urine output > 30cc/hr
   .
   #Access: Mid line not flushing correctly, will reattempt midline today
   .
   # HTN: On amlodipine, metoprolol and lisinopril as outpatient.
   -continue BB, ACE-I IV
   .
   # Aortic stenosis, h/o diastolic heart failure: Recent echo done here
   showed mild aortic stenosis, valve area 1.2-1.9cm2.  No current need
   for diuresis.
   - cont BB, ACE-I
   .
   # Osteopenia: Continue calcium/vit D.
   .
   # Left Hip osteonecrosis:  chronic. asymptomatic. Refused xrays and
   ortho consul last admit.
   -continue calcium and vitamin D
   .
   # Chronic pain:
   - Morphine PRN pain
   .
   # FEN:  NPO for now, cont PPN
   -- obtain daily labs
   # PPx: SC heparin, h2 blocker
   .
   # Code:  DNR/DNI
   .
   # Dispo:  ICU
   .
   # Comm:  [**Name (NI) **] [**Name (NI) **] (HCP1) [**Telephone/Fax (1) 4855**]; Daughter [**Name (NI) **] (HCP2)
   [**Telephone/Fax (1) 5352**] (h) [**Telephone/Fax (1) 5353**] (c)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-12-25**] 06:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-12-26 11:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   82 year old woman with PMH COPD, CHF , dermatomyositis, HTN who
   presented with altered mental status and UTI from her nursing home. Now
   no escalation of care as per family
   24 Hour Events:
 MIDLINE - STOP [**2111-12-25**] 05:04 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-25**] 08:55 AM
   Levofloxacin - [**2111-12-25**] 09:39 AM
   Aztreonam - [**2111-12-26**] 03:50 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-12-26**] 08:00 AM
   Metoprolol - [**2111-12-26**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-26**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 92 (66 - 105) bpm
   BP: 168/82(103) {125/59(75) - 169/89(103)} mmHg
   RR: 23 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,321 mL
                                                                    575 mL
   PO:
             TF:
   IVF:
                                                                  1,100 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    620 mL
   Urine:
                                                                  2,720 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,399 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (206 - 421) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///40/
   Ve: 5.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   284 K/uL
   115 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.7 mEq/L
   10 mg/dL
   101 mEq/L
   145 mEq/L
   27.8 %
   8.2 K/uL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
                             [**2111-12-22**]  11:52 PM
                             [**2111-12-23**]  07:08 AM
                             [**2111-12-23**]  07:33 AM
                             [**2111-12-23**]  08:05 AM
                             [**2111-12-24**]  02:20 PM
                             [**2111-12-24**]  03:14 PM
                             [**2111-12-25**]  09:30 AM
                             [**2111-12-26**]  05:20 AM
   WBC
   6.0
   7.4
   7.9
   8.2
   Hct
   32.3
   26.6
   27.0
   27.8
   Plt
   271
   235
   256
   284
   Cr
   0.3
   0.4
   0.6
   0.5
   0.5
   TropT
   0.03
   0.06
   TCO2
   50
   51
   44
   46
   38
   Glucose
   159
   95
   173
   92
   120
   115
   Other labs: PT / PTT / INR:12.9/33.5/1.1, CK / CKMB /
   Troponin-T:116/5/0.06, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   82 year old woman with PMH as above here with altered mental status and
   UTI. Poor baseline pulmonary status, now DNR/DNI, no escalation of
   care. Getting intermittent Bipap. Still intermittently in respiratory
   distress with weak cough.  Will continue to observe in MICU.  Plans as
   per resident note.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2111-12-26**] 12:32 AM 42 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2111-12-25**] 06:05 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes

2111-12-27 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypercarbia, altered mental status
   24 Hour Events:
   - No use of BiPAP in 24 hours
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2111-12-25**] 09:39 AM
   Vancomycin - [**2111-12-26**] 11:00 AM
   Aztreonam - [**2111-12-27**] 04:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-12-26**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2111-12-26**] 09:46 PM
   Metoprolol - [**2111-12-27**] 02:30 AM
   Dextrose 50% - [**2111-12-27**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No recent stools, abdomen uncomfortable but not focal, no nausea or
   vomiting
   Flowsheet Data as of  [**2111-12-27**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 61 (61 - 107) bpm
   BP: 158/60(85) {121/51(68) - 168/104(109)} mmHg
   RR: 20 (17 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,370 mL
                                                                    390 mL
   PO:
             TF:
   IVF:
                                                                    500 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    300 mL
   Urine:
                                                                  1,460 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                     90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Non-distended, Normoactive bowel sounds,
   No rebound or guarding
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   284 K/uL
   9.2 g/dL
   115 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.7 mEq/L
   10 mg/dL
   101 mEq/L
   145 mEq/L
   27.8 %
   8.2 K/uL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
                             [**2111-12-22**]  11:52 PM
                             [**2111-12-23**]  07:08 AM
                             [**2111-12-23**]  07:33 AM
                             [**2111-12-23**]  08:05 AM
                             [**2111-12-24**]  02:20 PM
                             [**2111-12-24**]  03:14 PM
                             [**2111-12-25**]  09:30 AM
                             [**2111-12-26**]  05:20 AM
   WBC
   6.0
   7.4
   7.9
   8.2
   Hct
   32.3
   26.6
   27.0
   27.8
   Plt
   271
   235
   256
   284
   Cr
   0.3
   0.4
   0.6
   0.5
   0.5
   TropT
   0.03
   0.06
   TCO2
   50
   51
   44
   46
   38
   Glucose
   159
   95
   173
   92
   120
   115
   Other labs: PT / PTT / INR:12.9/33.5/1.1, CK / CKMB /
   Troponin-T:116/5/0.06, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   82 year-old female with a history of COPD, diastolic CHF,
   dermatomyositis, and chronic right hemidiaphragm elevation who was
   admitted with altered mental status in the setting of hypercarbic
   respiratory failure and UTI.  Plan is for continuation of current care
   with emphasis on comfort and no escalation of care.  Will continue
   current antibiotic regimen of vancomycin, levofloxacin, and aztreonam
   started [**12-22**] to complete an 8-day course for treatment of ESBL
   Klebsiella urinary tract infection and potential hospital-acquired
   pneumonia.  Will continue anti-hypertensives as well as chronic
   steroids for dermatomyocytis.  Morphine as needed.  Patient prefers to
   wait for video swallow for evaluation of aspiration before eating,
   although she does not appear to want PEG or NG tube if she is
   aspirating.  No use of BiPAP in 24 hours and patient can be transferred
   to floor.  Will obtain KUB and give suppositories for constipation; no
   concerning physical examination findings.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2111-12-27**] 03:37 AM 42 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2111-12-25**] 06:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI, no escalation of care
   Disposition:Transfer to floor

2111-12-27 10:00:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 year old woman with a of history COPD, dermatomyositis, who
   presented with AECOPD and hypercarbic respiratory failure. Please see
   previous notes for details
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2111-12-26**] 11:00 AM
   Aztreonam - [**2111-12-27**] 04:30 AM
   Levofloxacin - [**2111-12-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-12-26**] 09:46 PM
   Dextrose 50% - [**2111-12-27**] 06:19 AM
   Metoprolol - [**2111-12-27**] 08:00 AM
   Famotidine (Pepcid) - [**2111-12-27**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-12-27**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.9
C (96.6
   HR: 80 (61 - 107) bpm
   BP: 164/77(98) {121/51(68) - 168/104(109)} mmHg
   RR: 21 (17 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,370 mL
                                                                    587 mL
   PO:
             TF:
   IVF:
                                                                    500 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    520 mL
   Urine:
                                                                  1,460 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -90 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   284 K/uL
   115 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.7 mEq/L
   10 mg/dL
   101 mEq/L
   145 mEq/L
   27.8 %
   8.2 K/uL
        [image002.jpg]
                             [**2111-12-21**]  10:42 PM
                             [**2111-12-22**]  04:28 AM
                             [**2111-12-22**]  11:52 PM
                             [**2111-12-23**]  07:08 AM
                             [**2111-12-23**]  07:33 AM
                             [**2111-12-23**]  08:05 AM
                             [**2111-12-24**]  02:20 PM
                             [**2111-12-24**]  03:14 PM
                             [**2111-12-25**]  09:30 AM
                             [**2111-12-26**]  05:20 AM
   WBC
   6.0
   7.4
   7.9
   8.2
   Hct
   32.3
   26.6
   27.0
   27.8
   Plt
   271
   235
   256
   284
   Cr
   0.3
   0.4
   0.6
   0.5
   0.5
   TropT
   0.03
   0.06
   TCO2
   50
   51
   44
   46
   38
   Glucose
   159
   95
   173
   92
   120
   115
   Other labs: PT / PTT / INR:12.9/33.5/1.1, CK / CKMB /
   Troponin-T:116/5/0.06, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   82 year old woman with PMH COPD, dermatomyositis who presents with
   AECOPD, now resolved and on minimal supplemental O2. Okay to transfer
   to floor today. Cont. Vanc/levo/aztreonam to
   complete 8 day course. Some c/o abdominal distension, will check KUB.
   Cont. NPO with PPN, awaiting video swallow. Further plans as per
   resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-12-25**] 06:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :To floor
   Total time spent: